US06995151B2
5-Nitro-isophthalic acid dibenzyl ester
In DMF (60 mL) was stirred 5-nitro-1,3-benzenedicarboxylic acid (2.1 g, 10 mmol) and potassium carbonate (8.3 g, 60 mmol). To this was added benzyl bromide (3.60 g, 21 mmol) and the mixture stirred at room temperature for 18 hours. The mixture was then filtered free of solids and the DMF solution evaporated at reduced pressure to give an oil. The oil was partitioned between methylene chloride (100 mL) and 10% citric acid solution (100 mL). The organic phase was separated, washed successively with saturated sodium bicarbonate solution (100 mL) and then brine (100 mL). The organic phase was dried over magnesium sulfate and evaporated at reduced pressure to give 1.5 g (39%) of the solid diester. MS: M-benzyl=300.1.

reactant | 5-nitro-1,3-benzenedicarboxylic acid | 10 mmol, 2.1 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)O)C(=O)O | C8H5NO6
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 21 mmol, 3.60 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-Nitro-isophthalic acid dibenzyl ester | 1.5 g, 39% | C(C1=CC=CC=C1)OC(C1=CC(C(=O)OCC2=CC=CC=C2)=CC(=C1)[N+](=O)[O-])=O | C22H17NO6
